Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Seizure-like activity 

 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ male with no prior history of seizures transferred
from ___ in ___ concern for 
seizure-like
activity. Patient was in the emergency department with his wife
who had injured herself. While waiting, he had approximately 45
seconds of seizure-like activity, which was preceded by a 
feeling
of nausea. Patient had jerking of arms and legs with eyes rolled
back in his head. He was noted to have bradycardia during the
event and urinary incontinence. Patient was not post-ictal. He
had 2 subsequent episodes as well while in the hospital and
received Keppra 1 g and Ativan 2 mg. 

Children state that he has a history of hypertension; however, 
no
problems with his heart or blood clots or history of seizures or
seizure history in the family. Lives with children and does not
believe he has used any drugs. Has been under a lot of stress
lately and has not been getting enough sleep because of problems
with money, wife recently going to nursing home. Has been 
feeling
short of breath for last ___ years.

Patient was evaluated by neurology in the ED, who did not find
any focal deficits on exam, and felt that these events were more
consistent with convulsive syncope. 

In the ED, initial vitals were:  afebrile, HR ___, BP
110s-130s/50s-80s, 100% RA 

- Exam notable for:  
Neuro: Asleep and unable to arouse, snoring, withdraws to 
painful
stimuli, no clonus

- Labs notable for:  Trop < 0.01, lactate 2.9 -> 1.6, WBC 12.0,
Hgb 11.8, plts 147, D-dimer 1178, UA with mod bld, 26 R, 8 WBC,
few bacteria 

-Imaging was notable for:  
CXR: Enlarged heart with prominent lung vascular markings and
ill-defined bibasilar densities, right reflecting pulmonary
edema. Aspiration or developing infectious process cannot be
definitely excluded without recent priors for comparison.
CTA Chest: upper lobe Centrilobular emphysema. No PE. 
MR head w/o: no significant intracranial abnormality 

-Patient was given: levitiracetam 1g, lorazapam 2mg, IV CTX 1g

Upon arrival to the floor, patient feeling well without
complaints. States he remembers feeling a strange sensation in
his stomach and chest prior to these episodes, possibly nausea
but does not remember the episodes themselves. 

 
Past Medical History:
- HTN 
- BPH
- HLD
- Macular Degeneration

 
Social History:
___
Family History:
Not pertinent to the current complaint 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VITAL SIGNS:  T 98.3 PO,  BP 164/80, HR 62, RR 18, O2 95 RA
GENERAL: Elderly male, no apparent distress  
HEENT: NC/AT, PERRLA, EOMI, Sclera Anicteric, OP clear, no
evidence of tongue biting
NECK: Neck veins flat, no cervical or supraclavicular LAD, no
carotid bruits  
CARDIAC: RRR, ___ late peaking systolic murmur loudest over
RUSB, +S1/S2  
LUNGS: Bilateral wheezing in superior lung fields, no accessory
muscle use, good air exchange  
ABDOMEN: Soft, nontender, nondistended
Back: No tenderness to palpation over spinous processes, no CVA
tenderness
EXTREMITIES: WWP, no clubbing/cyanosis/edema, +2 ___ pulses
bilaterally  
NEUROLOGIC: AAOx3, CN ___ grossly in tact, strength/sensation
full throughout  
SKIN: No rashes/lesions 

DISCHARGE
GENERAL: Elderly male, no apparent distress  
HEENT: Sclera Anicteric, MMM, EEG leads falling off 
NECK: No appreciable JVD 
CARDIAC: RRR, ___ late peaking systolic murmur loudest over 
RUSB,
normal S1/S2  
LUNGS: CTAB, no increased WOB, on RA  
ABDOMEN: Soft, nontender, nondistended
EXTREMITIES: No ___ edema   
NEUROLOGIC: AAOx3, conversant, no gross focal deficits 
SKIN: No rashes/lesions 

 
Pertinent Results:
ADMISSION 
___ 08:21AM BLOOD WBC-12.0* RBC-3.71* Hgb-11.8* Hct-36.1* 
MCV-97 MCH-31.8 MCHC-32.7 RDW-13.2 RDWSD-46.9* Plt ___
___ 08:21AM BLOOD Neuts-87.4* Lymphs-5.7* Monos-6.0 
Eos-0.2* Baso-0.3 Im ___ AbsNeut-10.50* AbsLymp-0.69* 
AbsMono-0.72 AbsEos-0.03* AbsBaso-0.04
___ 06:37AM BLOOD ___ PTT-35.7 ___
___ 08:21AM BLOOD Glucose-144* UreaN-16 Creat-0.9 Na-139 
K-4.2 Cl-101 HCO3-24 AnGap-14
___ 08:21AM BLOOD cTropnT-<0.01
___ 11:35AM BLOOD cTropnT-<0.01
___ 08:21AM BLOOD Albumin-4.3 Calcium-9.1 Phos-2.7 Mg-2.0
___ 07:10AM BLOOD TSH-0.83
___ 08:21AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 08:31AM BLOOD Lactate-1.6

DISCHARGE 
___ 07:05AM BLOOD WBC-7.8 RBC-3.50* Hgb-11.1* Hct-34.0* 
MCV-97 MCH-31.7 MCHC-32.6 RDW-13.1 RDWSD-45.9 Plt ___
___ 07:05AM BLOOD ___ PTT-44.5* ___
___ 07:05AM BLOOD Glucose-89 UreaN-18 Creat-0.9 Na-144 
K-4.1 Cl-106 HCO3-26 AnGap-12
___ 07:05AM BLOOD Calcium-9.0 Phos-2.7 Mg-2.___ man with a history of hypertension presenting with
convulsive activity while visiting his wife what injured herself
at an outside hospital ED, found to have unremarkable CNS 
imaging
and a benign neurologic exam. Admitted for workup of convulsive
syncope vs seizure.

ACUTE PROBLEMS
==============
#Seizure-like activity
Patient had 3 episodes of convulsions, which were preceded by 
nausea and accompanied by bradycardia. He has no known history 
of seizures or any other CNS pathology. Workup has included a 
CTA of the head and neck and noncontrast MRI of the head, which 
were both negative for acute intracranial abnormalities. Patient 
had a slightly elevated age-adjusted d-dimer, therefore he 
received a CTA of the chest, which did not show a PE. Chest 
x-ray revealed cardiomegaly and pulmonary venous congestion. 
Infectious workup is significant only for a mildly positive UA. 
Overall, this patient's presentation is more consistent with 
convulsive syncope rather than seizures. Convulsive syncope may 
be in the setting of recent stress or potentially a UTI 
considering his mildly positive UA. TTE showed an EF of 75% with 
hypokinesis of the inferior wall
and mild aortic stenosis. EEG showed no evidence of epileptiform 
activity in about 12 hours of recording. Patient will need 
Neurology follow-up for consideration of repeat MRI with 
contrast, which may be done as outpatient

#A-fib with RVR 
Patient noted to have brief runs of atrial fibrillation with HRs 
in the 150s. These may explain his recurrent syncope. He was 
started on metoprolol 6.25 mg q6h (transitioned to 25 mg 
metoprolol succinate daily) and apixiban 5 mg BID. 

#Asymptomatic bacteriuria 
Patient found to have WBCs and few bacteria on UA in ED. Given 
1g CTX in ED. Low suspicion for true UTI given lack of urinary 
symptoms and afebrilem therefore held off on additional 
antibiotics. 

CHRONIC PROBLEMS
================
#Hypertension
Held lisinopril in the setting of recent syncope

#BPH
Continued home tamsulosin

#Macular Degeneration
#HLD
#CAD
Evidence of inferior wall hypokinesis, as above, concerning for 
prior MI. Started ASA 81 mg for secondary prevention. Holding 
off on beta blocker iso recent syncope. Continued home 
atorvastatin 80

#Dyspnea
#COPD
Patient w/ history of dyspnea last ___ years. CT in ED revealing 
upper lobe emphysema. Continued to monitor. 

TRANSITIONAL ISSUES
===================
- Patient will need Neurology follow-up for consideration of 
repeat MRI with contrast, which may be done as outpatient. This 
has been scheduled as above.
- Cerebellar lesions noted on MRI concerning for chronic embolic 
infarcts vs small vessel disease. Also question of amyloid 
angiopathy on MRI but difficult to assess given limited study 
due to motion artifact and truncated due to intolerance. Should 
have follow up with neurology as above.
- Patient has an appointment on ___ at the Device Clinic to 
receive a Zio patch. This should be worn for two weeks to assess 
for paroxysmal arrhythmia that may be causing syncope. 
- There was evidence of inferior wall hypokinesis on TTE (likely 
sequela of prior infarct). EKG and cardiac enzymes not 
concerning for ACS. Already on aspirin 81 mg and atorvastatin 
80mg for secondary prevention. Started metoprolol succinate 25 
mg daily for atrial fibrillation. 

# CODE: full (confirmed) 
# CONTACT: ___ (daughter) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 20 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Tamsulosin 0.4 mg PO QHS 
4. Atorvastatin 80 mg PO QPM 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth Twice daily 
Disp #*60 Tablet Refills:*0
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth Twice daily 
Disp #*28 Tablet Refills:*0 
2.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth Daily Disp 
#*14 Tablet Refills:*0 
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 80 mg PO QPM  
5.  Lisinopril 20 mg PO DAILY  
6.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY: 
- Syncope (vasovagal vs cardiogenic) 

SECONDARY:
- Coronary artery disease 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you at ___. 

You came into the hospital because you had some episodes that 
were initially concerning for possible seizures. You received 
imaging of your head and chest that did not show any evidence of 
a stroke or blood clots. You had an echocardiogram, which showed 
some evidence that you may have had a small heart attack in the 
past, but nothing very concerning. For this, you were started on 
medications to prevent further heart attacks. You had an EEG, 
which did not show any evidence of seizure activity in your 
brain. You were found to have an abnormal heart rhythm, called 
atrial fibrillation. For this, you were started on a medication 
to control your heart rate and a blood thinner. 

When you go home, you should continue to take all of your 
medications as prescribed and attend all of your scheduled 
clinic appointments. You should monitor for chest pain, a 
sensation of heart racing or fluttering, dizziness, and 
lightheadedness. You should make sure you are drinking plenty of 
fluids. 

We wish you all the best, 
Your ___ care team 
 
Followup Instructions:
___